US07495018B2
[5-(2-amino-4-pyridyl)-4-(4-methoxyphenyl)-1,3-thiazol-2-yl]amine
To a solution of 2-bromo-2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(4-methoxyphenyl)ethanone hydrobromide (synthesized from 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(4-methoxyphenyl)ethanone (4.5 g, 13 mmol) according to the method described in Reference Example 20) in acetonitrile (40 mL) were added thiourea (1.1 g, 14 mmol) and triethylamine (1.9 mL, 14 mmol), and the mixture was stirred for 2 hours at 80° C. The reaction mixture was cooled to room temperature, then, concentrated. To the residue was added a saturated aqueous sodium hydrogen carbonate solution (200 mL), and the resulting solid was filtrated, and washed with water. To this solid was added 2N-hydrochloric acid (35 mL), and the mixture was stirred for 45 minutes at 100° C. The reaction mixture was cooled to room temperature, then, 8N-sodium hydroxide aqueous solution (10 mL) and aqueous sodium hydrogen carbonate solution (100 mL) were added. The resulted crude crystal was filtrated, and washed with water. This crude crystal was recrystallized from ethanol to obtain a title compound (2.7 g, yield 69%).

reactant | 2-bromo-2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(4-methoxyphenyl)ethanone hydrobromide | Br.BrC(C(=O)C1=CC=C(C=C1)OC)C1=CC(=NC=C1)NC(=O)OC(C)(C)C
reactant | 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(4-methoxyphenyl)ethanone | 13 mmol, 4.5 g | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CC(=O)C1=CC=C(C=C1)OC | C19H22N2O4
reactant | thiourea | 14 mmol, 1.1 g | NC(=S)N | CH4N2S
reactant | triethylamine | 14 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | [5-(2-amino-4-pyridyl)-4-(4-methoxyphenyl)-1,3-thiazol-2-yl]amine | 2.7 g, yield 69% | NC1=NC=CC(=C1)C1=C(N=C(S1)N)C1=CC=C(C=C1)OC | C15H14N4OS
